US04626546
3.0 g (0.01 mol) of 3-hydroxy-(4-hydroxyphenyl)pyrrolidine·benzoate are dissolved in 100 ml of water. The solution is then brought to pH 1 with concentrated hydrochloric acid. The benzoic acid precipitated is extracted with ether and the clear aqueous solution evaporated. The solid residue is recrystallized from ethanol. There is obtained 3-(4-hydroxyphenyl)-3-pyrroline·HCl in the form of light beige crystals, mp 222° C. (from ethanol).

reactant | 3-hydroxy-(4-hydroxyphenyl)pyrrolidine·benzoate | 0.01 mol, 3.0 g | OC1CN(CC1)C1=CC=C(C=C1)O.C(C1=CC=CC=C1)(=O)[O-]
reactant | hydrochloric acid | Cl | ClH
reactant | water | 100 ml | O | H2O
product | 3-(4-hydroxyphenyl)-3-pyrroline·HCl | OC1=CC=C(C=C1)C=1CNCC1.Cl | InChI=1S/C10H11NO.ClH/c12-10-3-1-8(2-4-10)9-5-6-11-7-9;/h1-5,11-12H,6-7H2;1H
